US07071192B1
A mixture of 1-[4-[[1-(8-quinolinyl)-1H-benzimidazol-2-yl]amino]1-piperidinyl]-3-methyl-2-butanone (0.0222 mol) and benzenemethanamine (0.0666 mol) in methanol (250 ml) was hydrogenated at 40° C. under a 3 bar pressure for 24 hours with palladium on activated carbon (1.5 g) as a catalyst. After uptake of hydrogen, the catalyst was filtered through celite, washed with CH2Cl2 and CH3OH and the filtrate was evaporated. Palladium on activated carbon (1.5 g) and methanol (250 ml) were added again. Hydrogenation was continued at 40° C. under a 3 bar pressure for 24 hours. After uptake of hydrogen, the catalyst was filtered through celite, washed with CH2Cl2 and the filtrate was evaporated. The residue (22 g) was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 95/5/0.1 and 85/15/1; 20–45 μm). Three pure fractions were collected and their solvents were evaporated, yielding 2.6 g 1-[4-[[1-(1,2,3,4-tetrahydro-8-quinolinyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-3-methyl-2-butanone (interm. 40) (fraction 1), 2.9 g of fraction 2 and 0.7 g of fraction 3. Fraction 2 and 3 were crystallized from CH3CN. The precipitate was filtered off and dried, yielding 0.82 g (±)-N-[1-[3-methyl-2-[(phenylmethyl)amino]butyl]4-piperidinyl]-1-(1,2,3,4-tetrahydro-8-quinolinyl)-1H-benzimidazol-2-amine; mp. 126° C. and 0.55 g of N-(4-piperidinyl)-1-(1,2,3,4-tetrahydro-8-quinolinyl)-1H-benzimidazol-2-amine; mp. 205° C. (comp. 48).

reactant | 1-[4-[[1-(8-quinolinyl)-1H-benzimidazol-2-yl]amino]1-piperidinyl]-3-methyl-2-butanone | 0.0222 mol | N1=CC=CC2=CC=CC(=C12)N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC(C(C)C)=O | C26H29N5O
reactant | benzenemethanamine | 0.0666 mol | C1(=CC=CC=C1)CN | C7H9N
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium on activated carbon | 1.5 g | [Pd] | Pd
product | 1-[4-[[1-(1,2,3,4-tetrahydro-8-quinolinyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-3-methyl-2-butanone | 2.6 g | N1CCCC2=CC=CC(=C12)N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC(C(C)C)=O | C26H33N5O
